US05268458
1-Sulfo-6-carboxy-2-aminonaphthalene, which is used as the starting compound, was hitherto unknown. However, it can be prepared according to the invention by sulfonating 2-naphthol-6-carboxylic acid in a sulfuric acid/sulfur trioxide mixture (oleum) which has a sulfur trioxide content of from 0 to 65% by weight, at a temperature of between -5° C. and +40° C., preferably at 0° to 10° C., to first give 1-sulfo-6-carboxy-2-naphthol, then isolating this compound and subsequently reacting it with ammonium hydrogen sulfite in an aqueous, alkaline medium in an autoclave at a temperature of between 100° and 200° C., preferably between 140° and 160° C.

reactant | 1-Sulfo-6-carboxy-2-aminonaphthalene | S(=O)(=O)(O)C1=C(C=CC2=CC(=CC=C12)C(=O)O)N | C11H9NO5S
reactant | 2-naphthol-6-carboxylic acid | C1=CC2=C(C=CC(=C2)O)C=C1C(=O)O | C11H8O3
reactant | sulfuric acid sulfur trioxide | S(O)(O)(=O)=O.S(=O)(=O)=O
reactant | sulfur trioxide | S(=O)(=O)=O | O3S
product | 1-sulfo-6-carboxy-2-naphthol | S(=O)(=O)(O)C1=C(C=CC2=CC(=CC=C12)C(=O)O)O | C11H8O6S
